US04070539
Step B: [2-Chloro-4-(2-dimethylaminomethylbutyryl)-phenoxyl]acetic Acid Hydrochloride
(2-Chloro-4-butyrylphenoxy)acetic acid (12.8 g., 0.05 mole), paraformaldehyde (1.65 g., 0.055 mole), dimethylamine hydrochloride (4.62 g., 0.056 mole) and acetic acid (1ml.) are combined and heated on a steam bath for three hours. The reaction mixture is treated with ethyl alcohol (75 ml.) and ether (125 ml.) which causes precipitation of 11.7 g. (69%) of [2-chloro-4-(2-dimethylaminomethylbutyryl)phenoxy]acetic acid hydrochloride which melts at 182° C. after recrystallization from 2-propanol (90 ml.).

reactant | (2-Chloro-4-butyrylphenoxy)acetic acid | 0.05 mole, 12.8 g | ClC1=C(OCC(=O)O)C=CC(=C1)C(CCC)=O | C12H13ClO4
reactant | paraformaldehyde | 0.055 mole, 1.65 g | C=O | CH2O
reactant | dimethylamine hydrochloride | 0.056 mole, 4.62 g | Cl.CNC
reactant | acetic acid | 1ml | C(C)(=O)O | C2H4O2
solvent | ether | 125 ml | CCOCC | C4H10O
solvent | ethyl alcohol | 75 ml | C(C)O | C2H6O
product | [2-Chloro-4-(2-dimethylaminomethylbutyryl)-phenoxyl]acetic Acid Hydrochloride | Cl.ClC1=C(OCC(=O)O)C=CC(=C1)C(C(CC)CN(C)C)=O | InChI=1S/C15H20ClNO4.ClH/c1-4-10(8-17(2)3)15(20)11-5-6-13(12(16)7-11)21-9-14(18)19;/h5-7,10H,4,8-9H2,1-3H3,(H,18,19);1H
